### PR TITLE
[Merged by Bors] - feat(Localization/AtPrime/Basic): upgrade `equivQuotMaximalIdeal` to an AlgEquiv

### PR DESCRIPTION
**Pull request by xgenereux**
The definition [IsLocalization.AtPrime.equivQuotMaximalIdealPow](https://leanprover-community.github.io/mathlib4_docs/Mathlib/RingTheory/Localization/AtPrime/Basic.html#IsLocalization.AtPrime.equivQuotMaximalIdealPow) was added in #36783.

The case with `n = 1` is still important and interesting. I have upgraded it to an AlgEquiv using `equivQuotMaximalIdealPow`.

This did break a few small things, because we need to bridge back to a `RingEquiv` in some places. I took the liberty to add some missing `apply` lemmas to ease fixing these proofs.

Disclaimer: I used Claude to suggest the first shot and refined it from there.

Co-authored-by: María Inés de Frutos Fernández <[mariaines.dff@gmail.com](mailto:mariaines.dff@gmail.com)>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by wwylele — APPROVED** [review]

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean [hunk 1]
```diff
@@ -710,6 +692,18 @@ noncomputable def equivQuotientMapMaximalIdeal : S ⧸ pS ≃+* Sₚ ⧸ pSₚ :
       IsLocalization.mk'_mul_cancel_left, ← map_mul, ← e, ← Algebra.smul_def, smul_smul,
       hβ, ← map_sub, add_smul, one_smul, add_comm x, add_sub_cancel_right]
 
+set_option backward.isDefEq.respectTransparency.types false in
```
Comment (xgenereux) [inline Mathlib/RingTheory/Localization/AtPrime/Basic.lean:695]: If wanted I can try to remove these but I would then need to modify `equivQuotientMapMaximalIdeal`.

The problem is the inlined proof of `Function.Surjective ⇑(algebraMap S (Sₚ ⧸ pSₚ))` in `equivQuotientMapMaximalIdeal`. If we pull it out then we don't get issues anymore. Another option is simply adding `unfold Function.Surjective` on line 669.

Comment (robin-carlier) [reply Mathlib/RingTheory/Localization/AtPrime/Basic.lean]: `rfl` works for this proof (without the set_option!) and the expression is well-typed at implicit transparency, so the lemma will even be an `@[defeq]` lemma (note that for this, the proof must be `:= rfl`, not `:= by rfl`), so it is probably better to do this for this proof.

It seems it is still necessary for `equivQuotientMapMaximalIdeal_symm_apply_mk `.

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean [hunk 2]
```diff
@@ -632,6 +587,33 @@ theorem equivQuotMaximalIdealPow_symm_apply_mk_mul (n : ℕ) (x : R) (s : p.prim
...
+
+@[simp]
+theorem equivQuotMaximalIdeal_apply_mk (x : R) :
+    equivQuotMaximalIdeal p Rₚ (Ideal.Quotient.mk _ x) =
+      (Ideal.Quotient.mk _ (algebraMap R Rₚ x)) := rfl
+
+@[simp]
+theorem equivQuotMaximalIdeal_symm_apply_mk (x : R) (s : p.primeCompl) :
+    (equivQuotMaximalIdeal p Rₚ).symm (Ideal.Quotient.mk _ (IsLocalization.mk' Rₚ x s)) =
+        (Ideal.Quotient.mk p x) * (Ideal.Quotient.mk p s)⁻¹ := by
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/AtPrime/Basic.lean]:
```suggestion
      (Ideal.Quotient.mk p x) * (Ideal.Quotient.mk p s)⁻¹ := by
```

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean [hunk 3]
```diff
@@ -710,6 +692,18 @@ noncomputable def equivQuotientMapMaximalIdeal : S ⧸ pS ≃+* Sₚ ⧸ pSₚ :
       IsLocalization.mk'_mul_cancel_left, ← map_mul, ← e, ← Algebra.smul_def, smul_smul,
       hβ, ← map_sub, add_smul, one_smul, add_comm x, add_sub_cancel_right]
 
+set_option backward.isDefEq.respectTransparency.types false in
+@[simp]
+lemma equivQuotientMapMaximalIdeal_apply_mk (s : S) :
+    equivQuotientMapMaximalIdeal S p Rₚ Sₚ (Ideal.Quotient.mk _ s) = (algebraMap S _) s := by
+  simp [equivQuotientMapMaximalIdeal]
```
Comment (robin-carlier) [inline Mathlib/RingTheory/Localization/AtPrime/Basic.lean]:
```suggestion
    equivQuotientMapMaximalIdeal S p Rₚ Sₚ (Ideal.Quotient.mk _ s) = (algebraMap S _) s :=
  rfl
```
See comment above.

**Comment by robin-carlier** [comment]
Rest looks good so,

Thanks!

maintainer delegate

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean [hunk 4]
```diff
@@ -554,52 +554,7 @@ variable (Rₚ : Type*) [CommRing Rₚ] [Algebra R Rₚ] [IsLocalization.AtPrime
...
-    simpa [ne_eq, Ideal.Quotient.eq_zero_iff_mem] using Ideal.mem_primeCompl_iff.mp s.prop
-  have h₂ : equivQuotMaximalIdeal p Rₚ (Ideal.Quotient.mk p ↑s) ≠ 0 := by
-    rwa [RingEquiv.map_ne_zero_iff]
-  rw [RingEquiv.symm_apply_eq, ← mul_left_inj' h₂, map_mul, mul_assoc, ← map_mul,
-    inv_mul_cancel₀ h₁, map_one, mul_one, equivQuotMaximalIdeal_apply_mk, ← map_mul,
-    mk'_spec, Ideal.Quotient.mk_algebraMap, equivQuotMaximalIdeal_apply_mk,
-    Ideal.Quotient.mk_algebraMap]
-
-set_option backward.isDefEq.respectTransparency.types false in
+set_option backward.isDefEq.respectTransparency false in
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/Localization/AtPrime/Basic.lean]: Is there a reason why you changed the option here?

**Review by riccardobrasca — COMMENTED** [review]
Thanks!

bors d+

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean (hunk 4 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Localization/AtPrime/Basic.lean]: Good catch, was not intentional.

File: Mathlib/RingTheory/Localization/AtPrime/Basic.lean (hunk 1 above)
Comment (xgenereux) [reply Mathlib/RingTheory/Localization/AtPrime/Basic.lean]: Thanks!
Yes I think for the other we would really need to pull out the surjective proof in `equivQuotientMapMaximalIdeal `. But I guess having the option is fine?
